US07514566B2
To a 50 mL round-bottomed flask was added N-(4-(methoxymethyl)-5-(thiazolo[5,4-c]pyridin-2-yl)thiazol-2-yl)acetamide (0.300 g, 0.936 mmol), Cs2CO3 (0.610 g, 1.87 mmol), and DMF (0.0721 mL, 0.936 mmol). The resulting solution was heated to 50° C. A DMF solution of (S)-2-(4-(trifluoromethyl)benzyl)-1-(4-nitrophenylsulfonyl)aziridine (0.724 g, 1.87 mmol) was added to the reaction dropwise, and the reaction mixture was monitored by LCMS. After approximately 30 minutes, the solvent was removed and the residue was taken up in EtOAc and washed with saturated sodium bicarbonate. The solution was dried over sodium sulfate, filtered and loaded onto a plug of silica gel. Chromatography through a Redi-Sep® pre-packed silica gel column (40 g), eluting with a gradient of 1% to 10% 2 M NH3.MeOH in DCM, to provide N-(4-(methoxymethyl)-5-(thiazolo[5,4-c]pyridin-2-yl)thiazol-2-yl)-N-((S)-2-(4-nitrophenylsulfonamido)-3-(4-(trifluoromethyl)phenyl)propyl)acetamide (0.290 g, 0.410 mmol, 43.8% yield). LCMS (M+H) 707 calc. for C29H26F3N6O6S3 707.1.

reactant | N-(4-(methoxymethyl)-5-(thiazolo[5,4-c]pyridin-2-yl)thiazol-2-yl)acetamide | 0.936 mmol, 0.300 g | COCC=1N=C(SC1C=1SC=2C=NC=CC2N1)NC(C)=O | C13H12N4O2S2
reactant | Cs2CO3 | 1.87 mmol, 0.610 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 0.936 mmol, 0.0721 mL | CN(C)C=O | C3H7NO
reactant | (S)-2-(4-(trifluoromethyl)benzyl)-1-(4-nitrophenylsulfonyl)aziridine | 1.87 mmol, 0.724 g | FC(C1=CC=C(CC2[N@](C2)S(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1)(F)F | C16H13F3N2O4S
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-(4-(methoxymethyl)-5-(thiazolo[5,4-c]pyridin-2-yl)thiazol-2-yl)-N-((S)-2-(4-nitrophenylsulfonamido)-3-(4-(trifluoromethyl)phenyl)propyl)acetamide | 0.410 mmol, 0.290 g, 43.8% yield | COCC=1N=C(SC1C=1SC=2C=NC=CC2N1)N(C(C)=O)C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C29H25F3N6O6S3
